US05550226
A mixture containing 3 parts by weight of sucrose and 7 parts by weight of "SUNMALT-S®", a maltose powder commercialized by Hayashibara Co., Ltd., Okayama, Japan, was prepared into a 30% aqueous solution. In accordance with the method in Experiment 1-2, the resultant aqueous solution was subjected to the action of dextransucrase to obtain a panose-rich saccharide solution.

reactant | sucrose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)CO)O)O)CO)O)O)O)O | C12H22O11
reactant | SUNMALT-S | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@@H]2[C@H](O[C@H]([C@@H]([C@H]2O)O)O)CO)O)O)O)O | C12H22O11
product | panose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)OC[C@@H]2[C@H]([C@@H]([C@H]([C@H](O2)O[C@H]([C@@H](CO)O)[C@@H]([C@H](C=O)O)O)O)O)O)O)O)O)O | C18H32O16
